US07544812B2
3-(4-{2-[3-Ethyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid
2-Methyl-3-(4-{2-[2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl -ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester: Trifluoroacetic acid (66 mL) is added dropwise to a solution of 3-(4-{2-[3-(4-Methoxy-benzyl)-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester (3.80 g, 5.50 mmol) and triethylsilane (1.76 mL, 11.0 mmol, d=0.728). The reaction mixture is stirred at ambient temperature for 4 hours, concentrated in vacuo, and diluted with ethyl acetate. The solution is washed, then dried, and concentrated to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.58 (d, 2H, J=7.7 Hz), 7.38 (d, 2H, J=7.7 Hz), 7.22 (t, 2H, J=9.1 Hz), 7.15 (d, 2H, J=9.1 Hz), 6.97 (t, 1H, J=7.7 Hz), 6.82 (d, 2H, J=7.7 Hz), 6.78 (d, 2H, J=9.1 Hz), 4.41 (q, 2H, J=14.8 Hz), 4.22, 4.18 (ABq, 2H, J=7.0 Hz), 4.04-4.01 (m, 2H), 3.97-3.90 (m, 1H), 3.43 (t, 1H, J=8.4 Hz), 3.26, 3.10 (ABq, 2H, J=14.1 Hz), 3.04, 3.02 (ABq, 1H, J=7.0 Hz), 2.08-1.99 (m, 1H), 1.98-1.90 (m, 1H), 1.38 (s, 3H), 1.21 (t, 3H, J=7.0 Hz). MS [EI+] 571 (M+H)+, [EI−] 569 (M−H)+. Rf=0.17 in 33% acetone in hexanes.

reactant | 4-{2-[2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl -ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(C)OC1=CC=C(C=C1)C1=C(C=CC=C1)OCCC1NC(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)=O | C30H31F3N2O5
reactant | Trifluoroacetic acid | 66 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(4-{2-[3-(4-Methoxy-benzyl)-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 5.50 mmol, 3.80 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)OC)(OC1=CC=CC=C1)C)=O | C39H41F3N2O6
reactant | triethylsilane | 11.0 mmol, 1.76 mL | C(C)[SiH](CC)CC | C6H16Si
product | 3-(4-{2-[3-Ethyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid | C(C)N1C(N(CC1CCOC1=CC=C(C=C1)CC(C(=O)O)(OC1=CC=CC=C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C31H33F3N2O5
